US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((1-(dimethylamino)-2,3-dihydro-1H-inden-5-yl)amino)quinolin-3-yl)ethanone
Following general procedure M, 1-(6-bromo-4-((1-(dimethylamino)-2,3-dihydro-1H-inden-5-yl)amino)quinolin-3-yl)ethanone (19 mg, 0.0448 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (35 mg, 0.12 mmol) to afford the desired product (13.9 mg, 61%) as an orange solid. 1H NMR (500 MHz, DMSO) δ 11.27 (s, 1H), 9.07 (s, 1H), 8.03 (dd, J=8.7, 2.1 Hz, 1H), 7.96-7.87 (m, 2H), 7.35-7.27 (m, 3H), 7.16 (d, J=2.1 Hz, 1H), 7.03-6.97 (m, 1H), 4.45 (br s, 1H), 2.95-2.84 (m, 1H), 2.84-2.73 (m, 1H), 2.65 (s, 3H), 2.21 (s, 6H), 2.14-2.06 (m, 2H). ESI MS m/z 505 [C28H25Cl2N3O2+H]+; HPLC 98.5% (AUC), tR=11.22 min.

reactant | 1-(6-bromo-4-((1-(dimethylamino)-2,3-dihydro-1H-inden-5-yl)amino)quinolin-3-yl)ethanone | 0.0448 mmol, 19 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=C2CCC(C2=CC1)N(C)C | C22H22BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.12 mmol, 35 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((1-(dimethylamino)-2,3-dihydro-1H-inden-5-yl)amino)quinolin-3-yl)ethanone | 13.9 mg, 61% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=C2CCC(C2=CC1)N(C)C | C28H25Cl2N3O2
